US07563901B2
2-Iodoacetamide (1.13 g) was added to a solution of 1.46 g of allyl (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[7-(pyridin-3-yl)carbonyl-imidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate in 4.5 ml of methanol, and the mixture was stirred at 40° C. for 22 hr. Methanol (8 ml) was added thereto for dilution. The diluted reaction mixture was added dropwise to 180 ml of ethyl acetate, and the resultant powder was collected by filtration to give 1.80 g of allyl (1S,5R,6S)-2-[7-(1-carbamoylmethylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate iodide.

reactant | 2-Iodoacetamide | 1.13 g | ICC(=O)N | C2H4INO
reactant | allyl (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[7-(pyridin-3-yl)carbonyl-imidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate | 1.46 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC=C)C1=O | C24H22N4O5S
reactant | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4.5 ml | CO | CH4O
solvent | Methanol | 8 ml | CO | CH4O
product | allyl (1S,5R,6S)-2-[7-(1-carbamoylmethylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate iodide | 1.80 g | [I-].C(N)(=O)C[N+]1=CC(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C26H25N5O6S.HI/c1-4-8-37-26(36)22-18(13(2)21-19(14(3)32)24(35)31(21)22)16-10-30-12-28-20(25(30)38-16)23(34)15-6-5-7-29(9-15)11-17(27)33;/h4-7,9-10,12-14,19,21,32H,1,8,11H2,2-3H3,(H-,27,33);1H/t13-,14+,19+,21+;/m0./s1
